US04513002
A solution of 58.3 g of dibenzosuberane in 750 ml of tetrahydrofuran, stirred under argon, is cooled to about 10° in an ice-bath and treated dropwise with 190 ml of an about 2M solution of butyl lithium in hexane. The dark red solution is heated to boiling under reflux for 2 hours. Ethylene oxide is conducted for 15 minutes into the solution, cooled to about 10°, subsequently the mixture is stirred at room temperature for 1 hour and finally heated to boiling under reflux for an additional 30 minutes. The cooled mixture is poured into 300 ml of ice-cold 3N hydrochloric acid and extracted twice with 2 l of ether each time. The organic extracts are washed with 500 ml of 2N potassium bicarbonate solution, combined, dried over magnesium sulfate and evaporated. The residue is boiled up three times with 50 ml of pentane each time. There is obtained 10,11-dihydro-5H-dibenzo[a,d]cycloheptene-5-ethanol in the form of a very viscous, yellowish oil, Rf: 0.25 (toluene/ethyl acetate, 9:1).

reactant | dibenzosuberane | 58.3 g | C1CC2=CC=CC=C2CC3=CC=CC=C31 | C15H14
reactant | butyl lithium | C(CCC)[Li]
reactant | Ethylene oxide | C1CO1 | C2H4O
solvent | tetrahydrofuran | 750 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 10,11-dihydro-5H-dibenzo[a,d]cycloheptene-5-ethanol | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)CCO | C17H18O
